US06855722B2
c) 7-{2-[1-(2-Ethoxycarbonyl-1-o-tolyl-vinyl)-1H-indol-5-yloxy]-ethyl}-3,4-dihydro-2H-[1,8]naphthyridine-1-carboxylic acid tert-butyl ester
The title compound was synthesized from 3-chloro-3-o-tolyl-acrylic acid ethyl ester and 7-[2-(2H-indol-5-yloxy)-ethyl]-3,4-dihydro-2H-[1,8]naphthyridine-1-carboxylic acid tert-butyl ester using the procedure outlined in Example 18, step (d), in a 35% yield of an E/Z isomeric mixture. 1H NMR (CDCl3) δ 7.46 (m, 0.6H), 7.30 (m, 4.8H), 7.10 (m, 1.6H), 7.03 (d, 0.6H, J=3.6 Hz), 6.94 (m, 1H), 6.85 (m, 0.4H), 6.70 (m, 1H), 6.53 (d, 0.8H, J=2.8 Hz), 6.47 (d, 0.2H, J=2.8 Hz), 6.30 (s, 0.2H), 5.82 (s, 0.8H), 4.39 (m, 2H), 4.10 (m, 2H), 3.78 (m, 2H), 3.22 (t, 2H, J=6.8), 2.75 (t, 2H, J=6.8), 2.07 (s, 2.4H), 2.02 (s, 0.6H), 1.94 (m, 2H), 1.53 (s, 9H), 1.05 (m, 3H).

reactant | 3-chloro-3-o-tolyl-acrylic acid ethyl ester | C(C)OC(C=C(C1=C(C=CC=C1)C)Cl)=O | C12H13ClO2
reactant | 7-[2-(2H-indol-5-yloxy)-ethyl]-3,4-dihydro-2H-[1,8]naphthyridine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCCC2=CC=C(N=C12)CCOC1=CC2=CCN=C2C=C1 | C23H27N3O3
product | 7-{2-[1-(2-Ethoxycarbonyl-1-o-tolyl-vinyl)-1H-indol-5-yloxy]-ethyl}-3,4-dihydro-2H-[1,8]naphthyridine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCCC2=CC=C(N=C12)CCOC=1C=C2C=CN(C2=CC1)C(=CC(=O)OCC)C1=C(C=CC=C1)C | C35H39N3O5
